US07262212B2
A mixture of 1-[4-(tetrahydropyran-2-yloxy)phenyl]-4-(4-trifluoromethoxyphenoxy)piperidine (30.1 g, 68.8 mmol) prepared in Reference Example 191 and pyridinium p-toluene sulfonate (5.2 g, 20.6 mmol) in ethanol (450 ml) was stirred at 70° C. for 24 hours. The reaction mixture was concentrated under reduced pressure, and methylene chloride and a saturated sodium hydrogencarbonate aqueous solution were added to the residue, which was stirred for a while. The mixture was extracted with methylene chloride, and the extract was dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/ethyl acetate=10/1) to afford 4-[4-(4-trifluoromethoxyphenoxy)-piperidin-1-yl]phenol (22.9 g, yield 94%) as a a pale brown powder.

reactant | 1-[4-(tetrahydropyran-2-yloxy)phenyl]-4-(4-trifluoromethoxyphenoxy)piperidine | 68.8 mmol, 30.1 g | O1C(CCCC1)OC1=CC=C(C=C1)N1CCC(CC1)OC1=CC=C(C=C1)OC(F)(F)F | C23H26F3NO4
reactant | pyridinium p-toluene sulfonate | 20.6 mmol, 5.2 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 4-[4-(4-trifluoromethoxyphenoxy)-piperidin-1-yl]phenol | 22.9 g, yield 94% | FC(OC1=CC=C(OC2CCN(CC2)C2=CC=C(C=C2)O)C=C1)(F)F | C18H18F3NO3
